US06562811B1
To a cold (0° C.) solution of tert-butyl 3-{2-amino-3-(aminomethyl)-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-4-pyridinyl}-1-piperidinecarboxylate (1.9 g, 4.055 mmol) and triethylamine (1.13 mL, 8.109 mmol) in tetrahydrofuran (40.0 mL) was added acetic anhydride (0.457 mL, 4.865 mmol). The mixture was stirred at 0° C. for 4 hrs. After quenched by water, the mixture was extracted with ethyl acetate and water. The separated organic phase was washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The resulting residue (yellow solid) was purified by recrystallization from ethyl acetate/diisopropyl ether to give tert-butyl 3-{3-(acetylamino-methyl)-2-amino-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-4-pyridinyl}-1-piperidinecarboxylate (1.13 g, yield; 55%).

reactant | tert-butyl 3-{2-amino-3-(aminomethyl)-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-4-pyridinyl}-1-piperidinecarboxylate | 4.055 mmol, 1.9 g | NC1=NC(=CC(=C1CN)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1O)OCC1CC1 | C26H36N4O4
reactant | triethylamine | 8.109 mmol, 1.13 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 4.865 mmol, 0.457 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 40.0 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-{3-(acetylamino-methyl)-2-amino-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-4-pyridinyl}-1-piperidinecarboxylate | 1.13 g, yield; 55% | C(C)(=O)NCC=1C(=NC(=CC1C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1O)OCC1CC1)N | C28H38N4O5
